US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(3-cyanophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (175 mg, 0.536 mmol) and 3-cyanophenol were reacted as starting materials at 150° C. for 19 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless prisms (165 mg, 75.2%). Melting point: 169.9-172.7° C. (ethyl acetate-diethyl ether-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.536 mmol, 175 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 3-cyanophenol | C(#N)C=1C=C(C=CC1)O | C7H5NO
product | 3,4-bis(4-methoxyphenyl)-6-(3-cyanophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC(=CC=C1)C#N | C25H19N3O3
